US08293909B2
2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)-1H-indole-3-carboxamide.
To a solution of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)-1H-indol-5-yl)benzoic acid (12 mg, 0.031 mmol) and DIPEA (20 μL, 0.115 mmol) in 1,2-dichloroethane (0.5 mL)/DMF (0.1 mL) was added cumylamine (15 μL, 0.10 mmol) and HATU (15 mg, 0.039 mmol). The reaction was stirred at r.t. for 30 min, then the volatiles were evaporated and the residue was purified directly by prep HPLC. Concentration afforded the title compound as a white powder (11 mg, 68% yield). 1H NMR (500 MHz, MeOD) δ ppm 8.52 (s, 1H) 8.09 (d, J=7.93 Hz, 2H) 7.85 (d, J=7.63 Hz, 1H) 7.66-7.77 (m, 3H) 7.49-7.57 (m, 3H) 7.47 (d, J=8.24 Hz, 2H) 7.31 (t, J=7.78 Hz, 2H) 7.23 (t, J=8.85 Hz, 2H) 7.19 (t, J=7.32 Hz, 1H) 2.89 (s, 3H) 1.78 (s, 6H). LC/MS was performed on a Shimadzu-VP instrument with UV detection at 220 nm and Waters Micromass. LC/MS method: solvent A=10% CH3CN/90% H2O/0.1% TFA, solvent B=90% CH3CN/10% H2O/0.1% TFA, start % B=0, final % B=100, gradient time=3 min, stop time=4 min, flow rate=4 ml/min, column: Sunfire C18 5 μm 4.6×50 mm; HPLC Rt=1.49 min, (ES+) m/z (MH+)=506. Analytical HPLC method: solvent A=5% CH3CN/95% H2O/0.1% TFA, solvent B=95% CH3CN/5% H2O/0.1% TFA, start % B=10, final % B=100, gradient time=15 min, stop time=18 min, flow rate=1 ml/min. Column: Waters Sunfire C-18, 3.5 μm 4.6×150 mm, Rt=15.29 min, purity=97%; column: Waters Xbridge Phenyl 3.5 μm 4.6×150 mm, Rt=11.59 min, purity=98%.

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)-1H-indol-5-yl)benzoic acid | 0.031 mmol, 12 mg | FC1=CC=C(C=C1)C=1NC2=CC=C(C=C2C1C(NC)=O)C=1C=C(C(=O)O)C=CC1 | C23H17FN2O3
reactant | DIPEA | 0.115 mmol, 20 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | cumylamine | 0.10 mmol, 15 μL | C(C)(C)(C1=CC=CC=C1)N | C9H13N
reactant | HATU | 0.039 mmol, 15 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | 1,2-dichloroethane | 0.5 mL | ClCCCl | C2H4Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluorophenyl)-N-methyl-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)-1H-indole-3-carboxamide | 11 mg, 68% yield | FC1=CC=C(C=C1)C=1NC2=CC=C(C=C2C1C(=O)NC)C1=CC(=CC=C1)C(NC(C)(C)C1=CC=CC=C1)=O | C32H28FN3O2
